US09193721B2
Step J: 1-[8-Chloro-5-(3-fluorophenyl)imidazo[1,5-a]pyridine-6-yl]ethanone
8-Chloro-5-(3-fluorophenyl)-N-methoxy-N-methylimidazo[1,5-a]pyridine-6-carboxamide (0.15 g, 0.45 mmol) was stirred in tetrahydrofuran (0.73 mL) and cooled to 0° C. A solution of 3.0 M methylmagnesium bromide (0.52 mL, 1.57 mmol) was added dropwise. The mixture was stirred at 0° C. for 30 minutes and at room temperature for 1 hour. The mixture was cooled to 0° C. and a solution of 1.0 M hydrogen chloride in water (1.8 mL) was added. The mixture was poured into saturated sodium bicarbonate and extracted into ethyl acetate 3×. The ethyl acetate extracts were combined and washed with water, dried over sodium sulfate, filtered, concentrated and purified by flash column chromatography with ethyl acetate in hexanes (0-80%) to give the desired compound (0.12 g, 93%). LCMS calculated for C15H11ClFN2O (M+H)+: m/z=289.1. found: 288.9. 1H NMR (300 MHz, DMSO-d6): δ 7.89 (s, 1H), 7.62 (m, 2H), 7.50 (m, 2H), 7.40 (m, 2H), 2.10 (s, 3H).

reactant | 8-Chloro-5-(3-fluorophenyl)-N-methoxy-N-methylimidazo[1,5-a]pyridine-6-carboxamide | 0.45 mmol, 0.15 g | ClC=1C=2N(C(=C(C1)C(=O)N(C)OC)C1=CC(=CC=C1)F)C=NC2 | C16H13ClFN3O2
reactant | methylmagnesium bromide | 1.57 mmol, 3.0 M, 0.52 mL | C[Mg]Br
reactant | hydrogen chloride | 1.0 M | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 0.73 mL | O1CCCC1 | C4H8O
solvent | water | 1.8 mL | O | H2O
product | 1-[8-Chloro-5-(3-fluorophenyl)imidazo[1,5-a]pyridine-6-yl]ethanone | 0.12 g, 93% | ClC=1C=2N(C(=C(C1)C(C)=O)C1=CC(=CC=C1)F)C=NC2 | C15H10ClFN2O
